US08710049B2
N-((1R,2R)-2-((S)-1-(4-Cyanophenyl)piperidin-3-ylamino)cyclohexyl)-2-(1-methyl-1H-indol-3-yl)acetamide (15 mg, 0.031 mmol) was synthesized in 32% yield using the procedures described in General Procedure I using 4-(3-((1R,2R)-2-aminocyclohexylamino)piperidin-1-yl)benzonitrile (30 mg, 0.10 mmol) and 2-(1-methyl-1H-indol-3-yl)acetic acid (19.02 mg, 0.10 mmol). Anal. Calcd. for C29H35N5O m/z 469.6, found: 470.3 (M+H)+; 1H NMR (500 MHz, MeOH-d3) δ ppm 7.61-7.47 (m, 3H), 7.23 (d, J=8.25 Hz, 1H), 7.14 (t, J=7.70 Hz, 1H), 7.07-6.97 (m, 2H), 6.89 (d, J=8.80 Hz, 2H), 3.80 (dd, J=11.00, 6.60 Hz, 1H), 3.58 (s, 3H), 3.48 (s, 2H), 3.28-3.11 (m, 4H), 3.00-2.91 (m, 1H), 2.87 (dd, J=13.20, 7.15 Hz, 1H), 2.19 (d, J=13.75 Hz, 1H), 2.05-1.92 (m, 2H), 1.90-1.71 (m, 3H), 1.67-1.49 (m, 4H), 1.44-1.34 (m, 2H).

reactant | 4-(3-((1R,2R)-2-aminocyclohexylamino)piperidin-1-yl)benzonitrile | 0.10 mmol, 30 mg | N[C@H]1[C@@H](CCCC1)NC1CN(CCC1)C1=CC=C(C#N)C=C1 | C18H26N4
reactant | 2-(1-methyl-1H-indol-3-yl)acetic acid | 0.10 mmol, 19.02 mg | CN1C=C(C2=CC=CC=C12)CC(=O)O | C11H11NO2
product | N-((1R,2R)-2-((S)-1-(4-Cyanophenyl)piperidin-3-ylamino)cyclohexyl)-2-(1-methyl-1H-indol-3-yl)acetamide | 0.031 mmol, 15 mg, 32% yield | C(#N)C1=CC=C(C=C1)N1C[C@H](CCC1)N[C@H]1[C@@H](CCCC1)NC(CC1=CN(C2=CC=CC=C12)C)=O | C29H35N5O
